US04745114
δ(CDCl3):
To a suspension of lithium aluminium hydride (120 mg, 3 mmol) in dry tetrahydrofuran (20 ml) at 0° C. under nitrogen was added dropwise a solution of 3,4-dihydro-1-benzopyran-2-(4'-phenylpiperidinyl)carboxamide (480 mg, 1.5 mmol) in dry tetrahydrofuran (20 ml). The mixture was stirred at 0° C. for 1/2 hour and at 20° C. for 3 hours. Wet ethyl acetate (10 ml) was added dropwise then saturated sodium potassium tartrate (20 ml). After stirring for 1 hour, the mixture was extracted with ethyl acetate (4×50 ml). The combined organic extracts were washed with water and brine, dried over anhydrous magnesium sulphate and concentrated in vacuo to give a pale yellow oil. Chromatography on silica gave the title compound 2-[4'-phenylpiperidinyl)methyl]-3,4-dihydro-1-benzopyran (0.37 g, 80%) as a colourless oil having the following characteristics:

reactant | lithium aluminium hydride | 3 mmol, 120 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium potassium tartrate | 20 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-1-benzopyran | 0.37 g, 80% | O1CCCC2=C1C=CC=C2 | C9H10O
